* this one is actually a DC line:
V1 1 0 AC 1 0
* these all with non-zero frequencies:
V1 1 2 AC 1 7
V1 2 3 AC 1 9 3
V1 3 4 AC 1 9 5
R1 3 0 1
D1 3 0 1 1
.end
