* V1 2 1 AC 10 1e6
V1 4 1 AC 10 1e6
V2 4 5 AC 5 0.5e6 1
V3 5 2 AC 1 0.25e6
* 
*V2 4 6 AC 5 0.5e6 1
*V4 6 5 AC 1e-6 0.1e6 1
*
D1 2 3 10e-12 25e-3
D2 0 1 10e-12 25e-3
D3 1 3 10e-12 25e-3
D4 0 2 10e-12 25e-3
R1 3 0 1000
.end
