V1 2 1 AC 10 1e6
*V1 4 1 AC 10 1e6
*V2 4 5 AC 5 0.5e6 1
*V3 5 2 AC 1 0.25e6
* Simple single node Rectifier using a five non-zero terms of the Taylor expansion of I_0( e^v/vt - 1), with I_0 = 10e-12, based on:
*
* D1 2 3 10e-12 25e-3
*
*Pd1p1 2 3 10e-12 25e-3 1
*Pd1p2 2 3 5e-12 25e-3 2
*Pd1p3 2 3 1.666e-12 25e-3 3
*Pd1p4 2 3 0.4166e-12 25e-3 4
*Pd1p5 2 3 0.0833e-12 25e-3 5
*
* diodeLineToTaylorSeries( 'D1', 2, 3, 10e-12, 25e-3, 8 )
*
PD1_1 2 3 1.000000e-11 2.500000e-02 1
PD1_2 2 3 5.000000e-12 2.500000e-02 2
PD1_3 2 3 1.666667e-12 2.500000e-02 3
PD1_4 2 3 4.166667e-13 2.500000e-02 4
PD1_5 2 3 8.333333e-14 2.500000e-02 5
PD1_6 2 3 1.388889e-14 2.500000e-02 6
PD1_7 2 3 1.984127e-15 2.500000e-02 7
PD1_8 2 3 2.480159e-16 2.500000e-02 8
*
*D2 0 1 10e-12 25e-3
*
*Pd2p1 0 1 10e-12 25e-3 1
*Pd2p2 0 1 5e-12 25e-3 2
*Pd2p3 0 1 1.666e-12 25e-3 3
*Pd2p4 0 1 0.4166e-12 25e-3 4
*Pd2p5 0 1 0.0833e-12 25e-3 5
*
* diodeLineToTaylorSeries( 'D2', 0, 1, 10e-12, 25e-3, 8 )
PD2_1 0 1 1.000000e-11 2.500000e-02 1
PD2_2 0 1 5.000000e-12 2.500000e-02 2
PD2_3 0 1 1.666667e-12 2.500000e-02 3
PD2_4 0 1 4.166667e-13 2.500000e-02 4
PD2_5 0 1 8.333333e-14 2.500000e-02 5
PD2_6 0 1 1.388889e-14 2.500000e-02 6
PD2_7 0 1 1.984127e-15 2.500000e-02 7
PD2_8 0 1 2.480159e-16 2.500000e-02 8
*
D3 1 3 10e-12 25e-3
*Pd3p1 1 3 10e-12 25e-3 1
*Pd3p2 1 3 5e-12 25e-3 2
*Pd3p3 1 3 1.666e-12 25e-3 3
*Pd3p4 1 3 0.4166e-12 25e-3 4
*Pd3p5 1 3 0.0833e-12 25e-3 5
*
* with this last Taylor expansion enabled the whole thing flattens?  What's going on?
D4 0 2 10e-12 25e-3
*Pd4p1 0 2 10e-12 25e-3 1
*Pd4p2 0 2 5e-12 25e-3 2
*Pd4p3 0 2 1.666e-12 25e-3 3
*Pd4p4 0 2 0.4166e-12 25e-3 4
*Pd4p5 0 2 0.0833e-12 25e-3 5
*
R1 3 0 1000
.end
