* Simple single node Rectifier
V1 1 0 AC 1 10
C1 1 2 .1
D1 2 0 10e-12 25e-3
C2 0 3 .1
D2 2 3 10e-12 25e-3
C3 2 4 .1
D3 3 4 10e-12 25e-3
C4 3 5 .1
D4 4 5 10e-12 25e-3
.end
