* single resistor, capactor, inductor in series with an, connected to an AC voltage source
*
* worked example from:
*
* http://www2.cose.isu.edu/~hackmart/RLC_circuits_engphys.pdf (page 10)
*
Vs1 1 0 AC 150 60
C1 1 2 3.5e-6
L1 2 3 0.6
R1 3 0 250
.end
