* single resistor in parallel with an AC current source (equivalent to 5V voltage source)
* that pair connected to two resistors in series (expect voltage drop at the second node).
Is1 0 1 AC 0.5 60
Rs 0 1 10
R1 1 2 10
R2 2 0 10
.end
