I1 1 0 AC 1 1e6
R1 1 0 1
*     Elabel node+ node- nodectrl+ nodectrl- gain [Vt P]
*     V_{node+} - V_{node-} = gain (( V_{nodectrl+} - V_{nodectrl-} )/Vt )^P.
E1 2 0 1 0 1 1 1
E2 3 0 1 0 1 1 2
E3 4 0 1 0 1 1 3
*
R3 2 0 1000
R3 3 0 1000
R3 4 0 1000
.end
