I1 1 0 AC .01 1e6
I2 1 0 AC .01 8e6
R1 1 2 50
L1 2 3 983.63e-9
L2 3 4 3183.099e-9
C1 3 0 1030e-12
C2 4 0 1030e-12
L3 4 5 983.6316e-9
R2 5 0 50
.end

