R1 1 0 0.5
I1 0 1 DC 7
C1 2 1 11
L1 2 0 13
.end

This is the circuit 'RLC circuit with current source' in the problem set. (example 1 for how to handle inductors).
