Is 0 1 DC 3
R1 1 0 0.5
C1 2 0 5
L1 2 1 7
.end

This is the circuit 'A final RLC circuit' in the problem set. (example 3 for how to handle inductors).
